US06380218B1
2-(5-Chloro-pyridin-3-yloxy)-nicotinic acid benzyl ester
A 15 ml flask was charged with 2-(5-chloro-pyridin-3-yloxy)-nicotinic acid (0.056 grams, 0.22 mmole), benzyl alcohol (0.052 grams, 0.44 mmole), 4-DMAP (˜3 mg), 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride (0.048 grams, 0.25 mmole), diethyl ether (4 ml) and pyridine (1 ml) and stirred at room temperature. After 1 hour the mixture was concentrated under reduced pressure and purified by column chromatography on silica gel eluting with 9/1 ethyl acetate/hexane to give 0.060 g of the title compound as a colorless oil. Anal. calcd. for C18H13ClN2O3: M.S. m/z [M+] 341; 1H NMR (CD3OD) d 4.58 (s, 2H), 7.45(m, 7H), 7.71 (s, 1H), 8.28 (m, 2H), 8.38 (m, 2H).

reactant | 2-(5-chloro-pyridin-3-yloxy)-nicotinic acid | 0.22 mmole, 0.056 grams | ClC=1C=C(C=NC1)OC1=C(C(=O)O)C=CC=N1 | C11H7ClN2O3
reactant | benzyl alcohol | 0.44 mmole, 0.052 grams | C(C1=CC=CC=C1)O | C7H8O
reactant | 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride | 0.25 mmole, 0.048 grams | Cl.CN(CCCN=C=NCC)C
reactant | diethyl ether | 4 ml | C(C)OCC | C4H10O
catalyst | 4-DMAP | ˜3 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | 2-(5-Chloro-pyridin-3-yloxy)-nicotinic acid benzyl ester | 0.060 g | C(C1=CC=CC=C1)OC(C1=C(N=CC=C1)OC=1C=NC=C(C1)Cl)=O | C18H13ClN2O3
